US07728142B2
(2-Amino-5-bromo-phenyl)-(4-fluoro-phenyl)-methanone
In a reactor fitted with magnetic stir bar, rubber septum, thermometer, Hickmann-condenser, nitrogen-inlet and nitrogen-outlet connected to a washing bottle containing 30% NaOH, anhydrous beads of gallium (III) chloride (11.7 g, 66 mmol) were added at once and then dissolved by the addition of 1,2-dichloroethane (100 mL). This solution was cooled in ice, then 4-bromoaniline (9.5 g, 55 mmol) was added slowly while keeping the temperature below 5° C. Then the solution was cooled to −10° C., and a fresh 1 M solution of boron trichloride in dichloromethane (61 ml) was added via a syringe fitted with a teflon stop-cock while keeping the temperature below −5° C. Finally, 4-fluorobenzonitrile (6.7 g, 55 mmol) was added, and the mixture was allowed to warm to 20° C. The Hickmann-condenser was replaced by a normal reflux condenser, and the reaction mixture was heated in an oil-bath (90° C.) over 1-2 h in order to distill off all the dichloromethane (a total of ca. 100 mL of distillate was collected) until the reflux temperature of 80° C. was achieved. Refluxing was continued for 14 h. The reaction mixture was cooled in ice and hydrolyzed slowly with water (100 mL) and then heated at 60-80° C. for 20-30 min. in order to hydrolyze the imine. The reaction mixture was cooled again and then extracted twice with dichloromethane and water. The crude product was purified by chromatography with a heptane/ethyl acetate gradient from 100:0 to 80:20 to give a yellow solid (7 g, 43%). MS: m/z=294 (M).

reactant | NaOH | [OH-].[Na+]
reactant | gallium (III) chloride | 66 mmol, 11.7 g | [Cl-].[Ga+3].[Cl-].[Cl-]
reactant | 4-bromoaniline | 55 mmol, 9.5 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 4-fluorobenzonitrile | 55 mmol, 6.7 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dichloromethane | 61 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | (2-Amino-5-bromo-phenyl)-(4-fluoro-phenyl)-methanone | 7 g, 43% | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=C(C=C1)F | C13H9BrFNO
